US07759469B2
d) Coupling of Dye to Nitroindole Base
6.2 g of the acid of the previous step, 1.3 g NHS and 2.5 g DCC were dissolved in 200 ml dry dichloromethane with the exclusion of humidity and stirred for two hours. Afterwards the reaction mixture was filtered with a plaited paper filter and the filtrate was concentrated in a vacuum on a rotary evaporator. The residue was suspended in 400 ml ethyl acetate, undissolved DCH was removed by filtration. The filtrate was extracted twice with each 150 ml citric acid 10% (w/w) and once with 150 ml of a saturated sodium chloride solution. The separated organic phase was dried over sodium sulfate, filtrated and subsequently the solvent was removed in a vacuum on a rotary evaporator (bath temperature 35° C.). The residue was dried over calcium chloride in a vacuum for one hour. The dried residue was dissolved in 200 ml dichloromethane and 6.33 g (10 mmol) N-[3-(1-{5-[Bis-(4-methoxy-phenyl)-phenyl-methoxymethyl]-4-hydroxy-tetrahydro-furan-2-yl}-5-nitro-1H-indol-3-yl)-prop-2-ynyl]-amine and 4.2 ml (30 mmol) of triethylamine were added. The mixture was stirred with the exclusion of humidity for 75 minutes at room temperature. Afterwards the solvent was removed in a vacuum on a rotary evaporator.

reactant | DCC | 2.5 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | N-[3-(1-{5-[Bis-(4-methoxy-phenyl)-phenyl-methoxymethyl]-4-hydroxy-tetrahydro-furan-2-yl}-5-nitro-1H-indol-3-yl)-prop-2-ynyl]-amine | 10 mmol, 6.33 g | COC1=CC=C(C=C1)C(OC(C1C(CC(O1)N1C=C(C2=CC(=CC=C12)[N+](=O)[O-])C#CCN)O)C1=CC=CC=C1)C1=CC=C(C=C1)OC | C37H35N3O7
reactant | triethylamine | 30 mmol, 4.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Nitroindole | [N+](=O)([O-])C=1NC2=CC=CC=C2C1 | C8H6N2O2
